US09102688B2
5-Fluoro-8-nitroquinoline (Intermediate 38)
In a similar fashion using route 10 general procedure 20, 5-fluoro-2-nitroaniline (1.0 g, 6.4 mmol), glycerol (1.83 g, 19.86 mmol), 3-nitrobenzenesulfonic acid sodium salt (1.8 g, 8.33 mmol) and H2SO4/H2O (1.2 ml, 7:5) gave the title compound (500 mg, 60%) after purification by column chromatography with DCM as the eluent.

reactant | 5-fluoro-2-nitroaniline | 6.4 mmol, 1.0 g | FC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5FN2O2
reactant | glycerol | 19.86 mmol, 1.83 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 8.33 mmol, 1.8 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 1.2 ml | OS(=O)(=O)O.O
product | 5-Fluoro-8-nitroquinoline | 500 mg, 60% | FC1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C9H5FN2O2
